US04568695
2-Amino-3-(4-chlorobenzoyl)benzeneacetic Acid, Ethyl Ester
Fourteen g of 2-amino-3-(4-chlorobenzoyl)benzene acetic acid, sodium salt.H2O was dissolved in 150 ml of dimethylformamide and then treated with 30 g of ethyl iodide. The resulting solution was stirred at room temperature for 2.5 hours. The solution was then added to water and the mixture was extracted several times with benzene. The benzene layer obtained was washed with dilute base and water, dried over sodium sulfate and stripped to leave an oil which crystallized on trituration with pet. ether. Recrystallization from ethyl alcohol gave 11.6 g of the titled compound as yellow flakes, m.p. 101°-102° C.

reactant | 2-amino-3-(4-chlorobenzoyl)benzene acetic acid | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)O | C15H12ClNO3
reactant | sodium | [Na] | Na
reactant | H2O | O | H2O
reactant | ethyl iodide | 30 g | C(C)I | C2H5I
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-Amino-3-(4-chlorobenzoyl)benzeneacetic Acid, Ethyl Ester | 11.6 g | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)OCC | C17H16ClNO3
